US07842685B2
Reaction of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzoic acid (0.080 g, 0.20 mmol) and beta-alanine ethyl ester hydrochloride, according to Reference S and the general procedure for amide formation afforded ethyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzamido)propanoate. MS (ESI) m/z: Calculated: 489.2; Observed: 490.0 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzoic acid | 0.20 mmol, 0.080 g | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | beta-alanine ethyl ester hydrochloride | Cl.C(C)OC(CCN)=O
product | ethyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzamido)propanoate | FC=1C=C(C(=O)NCCC(=O)OCC)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C27H24FN3O3S
